US08247595B2
To a solution of 2.4 g of 4,4,4-trifluoro-2-butenyl p-toluenesulfonate and 2.0 g of methyl (3,3,3-trifluoropropylsulfonyl)acetate in 50 ml of dimethyl sulfoxide, 1.2 g of potassium carbonate was added at room temperature and stirred at the same temperature for 16 hours. To the reaction mixture, 10% hydrochloric acid was added, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 1.40 g of methyl 6,6,6-trifluoro-2-(3,3,3-trifluoropropylsulfonyl)-4-hexenoate (hereinafter referred to as the present compound (17)).

reactant | 4,4,4-trifluoro-2-butenyl p-toluenesulfonate | 2.4 g | C1(=CC=C(C=C1)S(=O)(=O)OCC=CC(F)(F)F)C | C11H11F3O3S
reactant | methyl (3,3,3-trifluoropropylsulfonyl)acetate | 2.0 g | FC(CCS(=O)(=O)CC(=O)OC)(F)F | C6H9F3O4S
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | methyl 6,6,6-trifluoro-2-(3,3,3-trifluoropropylsulfonyl)-4-hexenoate | 1.40 g | FC(C=CCC(C(=O)OC)S(=O)(=O)CCC(F)(F)F)(F)F | C10H12F6O4S
